US04929741
A solution of 10 g (58 mmol) of 2-(2-methoxyethoxy)ethyl propiolate in 80 ml of tetrahydrofuran was treated at -78° under argon with 36 ml of n-butyllithium (1.6M in hexane). The mixture was stirred at -78° for 10 minutes and then a solution of 11.4 g (58 mmol) of 3,4,5-trimethoxy-benzaldehyde in 60 ml of tetrahydrofuran was added within 30 minutes. The reaction mixture was stirred at -78° for a further 30 minutes, then brought to room temperature and treated with 150 ml of saturated ammonium chloride solution. The aqueous phase was extracted twice with ether. The combined organic phases were washed in succession with saturated sodium chloride solution and with water, dried over sodium sulphate and concentrated. The residue was purified by flash chromatography on 1000 g of silica gel (elution agent methylene chloride/ether 4:1). There was obtained 2-(2-methoxyethoxy)ethyl 4-hydroxy-4-(3,4,5-trimethoxyphenyl)-2-butynoate as a red oil.

reactant | 2-(2-methoxyethoxy)ethyl propiolate | 58 mmol, 10 g | C(C#C)(=O)OCCOCCOC | C8H12O4
reactant | n-butyllithium | 1.6M, 36 ml | C(CCC)[Li]
reactant | 3,4,5-trimethoxy-benzaldehyde | 58 mmol, 11.4 g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | ammonium chloride | 150 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 2-(2-methoxyethoxy)ethyl 4-hydroxy-4-(3,4,5-trimethoxyphenyl)-2-butynoate | OC(C#CC(=O)OCCOCCOC)C1=CC(=C(C(=C1)OC)OC)OC | C18H24O8
